US05036075
The experiment is carried out as in Example 1, starting with 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (6.5 g), triethylamine (3.4 cc) and 4-phenyl-1,2,3,6-tetrahydropyridine (3.9 g) in toluene (150 cc). The mixture is heated for 9 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with dichloromethane as eluant, and recrystallization from boiling acetonitrile (10 cc), 2-[2-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)ethyl]naphtho[1,8-cd]isothiazole 1,1-dioxide (2.5 g) is obtained, m.p. 106° C.

reactant | 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 6.5 g | ClCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C12H10ClNO2S
reactant | triethylamine | 3.4 cc | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 3.9 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
solvent | toluene | 150 cc | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)ethyl]naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.5 g | C1(=CC=CC=C1)C=1CCN(CC1)CCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H22N2O2S
